US06821967B2
9-[4-(4-benzoxazol-2-yl-piperazin-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide
Prepared analogously to Example 2b from 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide and 2-(piperazin-1-yl)-benzoxazole.

reactant | 9-(4-bromo-butyl)-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCBr)(F)F | C20H19BrF3NO2
reactant | 2-(piperazin-1-yl)-benzoxazole | N1(CCNCC1)C=1OC2=C(N1)C=CC=C2 | C11H13N3O
product | 9-[4-(4-benzoxazol-2-yl-piperazin-1-yl)-butyl]-9H-xanthene-9-carboxylic acid-(2,2,2-trifluoro-ethyl)-amide | FC(CNC(=O)C1(C2=CC=CC=C2OC=2C=CC=CC12)CCCCN1CCN(CC1)C=1OC2=C(N1)C=CC=C2)(F)F | C31H31F3N4O3
